US07534914B2
STEP 1. Methyl 5-chloro-2-{[(5-chloropyridin-3-yl)oxy]methyl}benzoate
The title compound was prepared according to the procedure described in step 1 of Example 1 from methyl 2-(bromomethyl)-5-chlorobenzoate and 3-chloro-5-hydroxypyridine:

reactant | methyl 2-(bromomethyl)-5-chlorobenzoate | BrCC1=C(C(=O)OC)C=C(C=C1)Cl | C9H8BrClO2
reactant | 3-chloro-5-hydroxypyridine | ClC=1C=NC=C(C1)O | C5H4ClNO
product | Methyl 5-chloro-2-{[(5-chloropyridin-3-yl)oxy]methyl}benzoate | ClC=1C=CC(=C(C(=O)OC)C1)COC=1C=NC=C(C1)Cl | C14H11Cl2NO3
